US08182718B2
Hbn=2,2′-Propane-2,2-diylbis(1,3-benzothiazole)
To a flask were added 50 g polyphosphoric acid. After heating to 70 C under nitrogen, a mixture of 3.13 g 2-aminothiophenol and 1.65 g dimethylmalonic acid was added. The reaction mixture was heated to 150 C for 2 hours, then 165 C for 3 hours. After cooling to 80 C, the mixture was poured into 100 ml water. The slurry was cooled to 5 C, filtered and the solid was washed with water. The solid was added to a mixture of 20 ml ethanol and 210 ml water at 50 C and basified with aqueous ammonium hydroxide. After cooling to 10 C, the solid was filtered and washed with water. The solid was dissolved in 50 ml hot ethanol, hot filtered and 5 ml water was added and the solution was cooled to 5 C. Following filtration, the white solid was washed with 75% ethanol and dried.

reactant | 2-aminothiophenol | 3.13 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | dimethylmalonic acid | 1.65 g | CC(C(=O)O)(C(=O)O)C | C5H8O4
solvent | water | 100 ml | O | H2O
product | 2,2′-Propane-2,2-diylbis(1,3-benzothiazole) | CC(C)(C=1SC2=C(N1)C=CC=C2)C=2SC1=C(N2)C=CC=C1 | C17H14N2S2
